.suckt  2stage_pmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 pmos W=25e-6 L=1e-6
M2 outfirststage in2 net_1 net_1 pmos W=25e-6 L=1e-6
M3 net_0 net_0 source_pmos source_pmos pmos W=1e-6 L=7e-6
M4 net_2 net_0 source_pmos source_pmos pmos W=1e-6 L=7e-6
M5 outfirststage bias_p_4 net_2 net_2 pmos W=1e-6 L=7e-6
M6 net_4 ibias source_nmos source_nmos nmos W=1e-6 L=7e-6
M7 net_0 bias_n_1 net_4 net_4 nmos W=1e-6 L=1e-6
M8 net_7 ibias source_nmos source_nmos nmos W=1e-6 L=7e-6
M9 outfirststage bias_n_1 net_7 net_7 nmos W=1e-6 L=7e-6
M10 net_8 net_8 source_pmos source_pmos pmos W=1e-6 L=2e-6
M11 net_1 net_9 net_8 net_8 pmos W=1e-6 L=2e-6
M12 out bias_p_5 source_pmos source_pmos pmos W=1e-6 L=1e-6
M13 net_11 outfirststage source_nmos source_nmos nmos W=1e-6 L=1e-6
M14 out bias_n_1 net_11 net_11 nmos W=33e-6 L=1e-6
M15 bias_n_1 bias_n_1 source_nmos source_nmos nmos W=1e-6 L=1e-6
M16 ibias ibias source_nmos source_nmos nmos W=1e-6 L=7e-6
M17 net_9 net_9 bias_p_3m bias_p_3m pmos W=1e-6 L=2e-6
M18 bias_p_3m net_8 source_pmos source_pmos pmos W=1e-6 L=2e-6
M19 bias_p_4 bias_p_4 source_pmos source_pmos pmos W=1e-6 L=13e-6
M20 bias_p_5 bias_p_5 source_pmos source_pmos pmos W=1e-6 L=1e-6
M21 bias_p_5 ibias source_nmos source_nmos nmos W=1e-6 L=7e-6
M22 bias_n_1 bias_p_5 source_pmos source_pmos pmos W=1e-6 L=1e-6
M23 bias_p_4 ibias source_nmos source_nmos nmos W=1e-6 L=7e-6
M24 net_9 ibias source_nmos source_nmos nmos W=1e-6 L=7e-6
Cap_load_1 out source_nmos
Cap_compensation_1 outfirststage out
.end 2stage_pmos_input
